US04277498
2-Methylheptan-2-ol (56.53 g.; 0.43 mole) and phthalimidoacetonitrile (80.27 g.; 0.43 mole) were dissolved in glacial acetic acid (220 ml.) and the solution warmed to about 60° C. with stirring. Concentrated sulphuric acid (59 ml.; 1.1 mole) was then added gradually; at first the temperature fell but as the addition proceeded a vigorous exothermal reaction took place, the temperature of the reaction was controlled at 70° C. by regulating the addition of the sulphuric acid and coolingas necessary. When the addition was complete the resulting dark brown solution was stirred for 11/2 hours and then added dropwise to a mixture of ice and water. The precipitated solid was filtered off, pressed well, washed with fresh water and dried in vacuo. The residue was recrystallisedfrom benzene with filtering, to afford 2-phthalimido-N-(1,1-dimethylhexyl)acetamide m.p. 142° C.

reactant | 2-Methylheptan-2-ol | 0.43 mole, 56.53 g | CC(C)(CCCCC)O | C8H18O
reactant | phthalimidoacetonitrile | 0.43 mole, 80.27 g | C1(C=2C(C(N1CC#N)=O)=CC=CC2)=O | C10H6N2O2
reactant | sulphuric acid | 1.1 mole, 59 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | acetic acid | 220 ml | C(C)(=O)O | C2H4O2
product | 2-phthalimido-N-(1,1-dimethylhexyl)acetamide | C1(C=2C(C(N1CC(=O)NC(CCCCC)(C)C)=O)=CC=CC2)=O | C18H24N2O3
